US08710223B2
Synthesis of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(3-cyclopropyl-4-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile
A mixture of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carbonitrile (112 mg, 0.380 mmol, 1 equiv), 3-cyclopropyl-4-fluoro-5-(1H-tetrazol-1-yl)benzenamine (100 mg, 0.456 mmol, 1.2 equiv), and PTSA monohydrate (58 mg, 0.304 mmol, 0.8 equiv) in IPA (4 mL) were heated to 60° C. for 5 days. After cooling to ambient temperature, the crude mixture was concentrated to dryness. The residue was taken in ice-cold water and EtOAc then adjusted to ca. pH 12-14 with 1N NaOH. The aqueous and organic layers were partitioned, and the aqueous layer was extracted with EtOAc (1×150 mL). The combined organic extracts were dried (Na2SO4), filtered, and the solvent removed under vacuum. The crude product was submitted to the analytical department for purification by reverse-phase HPLC using 0.1% formic acid as a modifier in water and acetonitrile (compound unstable in TFA). The product as the formate salt was taken in ice-cold water and EtOAc then adjusted to ca. pH 12-14 with 1N NaOH. The aqueous and organic layers were partitioned, and the aqueous layer was extracted with EtOAc (2×150 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated to give desired compound (63 mg, 35%) as a solid.

reactant | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carbonitrile | 0.380 mmol, 112 mg, 1 equiv | CC1(NC(CC(C1)NC1=NC(=NC=C1C#N)Cl)(C)C)C | C14H20ClN5
reactant | 3-cyclopropyl-4-fluoro-5-(1H-tetrazol-1-yl)benzenamine | 0.456 mmol, 100 mg, 1.2 equiv | C1(CC1)C=1C=C(C=C(C1F)N1N=NN=C1)N | C10H10FN5
solvent | IPA | 4 mL | CC(C)O | C3H8O
product | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(3-cyclopropyl-4-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile | 63 mg, 35% | CC1(NC(CC(C1)NC1=NC(=NC=C1C#N)NC1=CC(=C(C(=C1)N1N=NN=C1)F)C1CC1)(C)C)C | C24H29FN10
